US04518774
A solution of ethyl 2-methoxyimino-3-oxobutyrate (syn isomer 17.3 g), ethylene glycol (12.4 g) and p-toluenesulfonic acid (0.5 g) in benzene (260 ml) was heated under reflux while removing water. The resultant solution was washed with a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride in turn and dried over magnesium sulfate. After evaporating the solvent from the solution, the residue was distilled under reduced pressure to give ethyl 2-methoxyimino-3,3-ethylenedioxybutyrate (syn isomer, 15.2 g), bp 97° to 102° C./4 mmHg.

reactant | ethyl 2-methoxyimino-3-oxobutyrate | 17.3 g | CON=C(C(=O)OCC)C(C)=O | C7H11NO4
reactant | ethylene glycol | 12.4 g | C(CO)O | C2H6O2
solvent | benzene | 260 ml | C1=CC=CC=C1 | C6H6
catalyst | p-toluenesulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | ethyl 2-methoxyimino-3,3-ethylenedioxybutyrate | 15.2 g | CON=C(C(=O)OCC)C1(C)OCCO1 | C9H15NO5
